* E:\Draft3.asc
R1 N003 IN_pulse 1.2k
R2 0 N003 3.3k
Q1 N002 N003 0 0 2N2222
R3 N001 N002 1k
R4 N004 N002 1.2k
R5 0 N004 3.3k
Q2 Output N004 0 0 2N2222
R6 N001 Output 1k
V1 IN_pulse 0 PULSE(0 5 0 0 0 2u 4u 100)
V2 N001 0 15
.model NPN NPN
.model PNP PNP
.lib C:\Users\Shashi Prabha\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 50u 0
.backanno
.end
